US04171356
Suspend 5.16 gm. of sodium hydride in 50 ml. of ahydrous dimethylformamide. Maintain the temperature at 0°C. and add 12.4 ml. of benzyl chloride, then 4.65 gm. of 6-azido-6-deoxy-D-glucal in 17 ml. of dimethylformamide. Stir for 4 hours and then add 15 ml. of ethanol, after a further 10 minutes, pour the reaction mixture on ice and then extract wth chloroform. Wash the extracts with water, then dry over MgSO4 and then reduce in vacuo. Chromatograph the residue on silica gel using 25% ethyl acetate in benzene as the eluant to obtain 6-azido-6-deoxy-3,4-di-O-benzyl-D-glucal, [α]26 D + 34.3° (EtOH); pmr (CDCl3)δ 3.52 (2H, m, -CH2N3), 4.6 (4H, m, Ar-CH2 -), 6.38 (1H, dd, J=1.5, 6-Hz, H-1); ν max (CHCl3) 2100, 1640 cm-1.

reactant | sodium hydride | [H-].[Na+]
reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | benzyl chloride | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | 6-azido-6-deoxy-D-glucal | N(=[N+]=[N-])C[C@@H]1[C@H]([C@@H](C=CO1)O)O | C6H9N3O3
solvent | ethanol | C(C)O | C2H6O
product | 6-azido-6-deoxy-3,4-di-O-benzyl-D-glucal | N(=[N+]=[N-])C[C@@H]1[C@H]([C@@H](C=CO1)OCC1=CC=CC=C1)OCC1=CC=CC=C1 | C20H21N3O3
